US05532240
A mixture of 0.7 g of 6-acetyl-2-(2-chloroethyl)-3-ethyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine, 0.7 g of 4-(6-fluorobenzo(b)thiophen-3-yl)piperidine hydrochloride, 1.8 g of potassium carbonate and 0.6 g of potassium iodide in 25 ml of dimethylformamide and 25 ml of toluene was stirred at 70° C. for 7 hours and poured into water. The toluene layer was washed with water, dried over magnesium and concentrated. The residue was purified by column chromatography on a silica gel and dissolved in ethanol to convert hydrochloride thereof, and then recrystallized from methanol to give 0.45 g of 6-acetyl-3-ethyl-2-(2-(4-(6-fluorobenzo-(b)thiophen-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine hydrochloride, m.p. 240° C. (decomposition).

reactant | 6-acetyl-2-(2-chloroethyl)-3-ethyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 0.7 g | C(C)(=O)N1CC2=C(CC1)C(=C(S2)CCCl)CC | C13H18ClNOS
reactant | 4-(6-fluorobenzo(b)thiophen-3-yl)piperidine hydrochloride | 0.7 g | Cl.FC=1C=CC2=C(SC=C2C2CCNCC2)C1
reactant | potassium carbonate | 1.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.6 g | [I-].[K+]
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 6-acetyl-3-ethyl-2-(2-(4-(6-fluorobenzo-(b)thiophen-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine hydrochloride | 0.45 g | Cl.C(C)(=O)N1CC2=C(CC1)C(=C(S2)CCN2CCC(CC2)C=2C1=C(SC2)C=C(C=C1)F)CC | InChI=1S/C26H31FN2OS2.ClH/c1-3-20-22-8-13-29(17(2)30)15-26(22)32-24(20)9-12-28-10-6-18(7-11-28)23-16-31-25-14-19(27)4-5-21(23)25;/h4-5,14,16,18H,3,6-13,15H2,1-2H3;1H
